US08877760B2
A solution of 3,5-dichloropyrazine-2-carbonitrile (86 mg, 0.494 mmol), D-phenylalaninamide (81 mg, 0.494 mmol) and DIEA (0.130 mL, 0.747 mmol) in DMF (2 mL) was stirred at room temperature for 20 h. Water and EtOAc were added. Organic phase was separated, washed with 1N HCl, then with 5% NaHCO3, dried over Na2SO4, concentrated in vacuo to give (R)-2-(6-chloro-5-cyanopyrazin-2-ylamino)-3-phenylpropanamide (128 mg) as an oil.

reactant | 3,5-dichloropyrazine-2-carbonitrile | 0.494 mmol, 86 mg | ClC=1C(=NC=C(N1)Cl)C#N | C5HCl2N3
reactant | D-phenylalaninamide | 0.494 mmol, 81 mg | N[C@H](CC1=CC=CC=C1)C(=O)N | C9H12N2O
reactant | DIEA | 0.747 mmol, 0.130 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | Water | O | H2O
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (R)-2-(6-chloro-5-cyanopyrazin-2-ylamino)-3-phenylpropanamide | 128 mg | ClC1=C(N=CC(=N1)N[C@@H](C(=O)N)CC1=CC=CC=C1)C#N | C14H12ClN5O
